US07101886B2
Starting with 4-[2-(4-benzo[d]isothiazol-3-yl-piperazin-1-yl)-ethyl]-2-methyl-phenylamine hydrochloride (0.6 g, 1.702 mmol) and 2-methyl-acryloyl chloride (0.206 mL, 1.702 mmol) and following the procedure outlined in Example 512, N-{4-[2-(4-Benzo[d]isothiazol-3-yl-piperazin-1-yl)-ethyl]-2-methyl-phenyl}-2-methyl-acrylamide (0.521 g, 1.239 mmole) was obtained. Yield=73%. 100% purity at 254 nM; LCMS (APCI): 421.3 [M+H]+; 1H NMR (400 MHz, DMSO-d6) 811.17 (bs, 1H), 9.32 (s, 1H), 8.10 d, J=7.88 Hz, 1H), 8.07 (d, J=7.88 Hz, 1H), 7.55 (t, J=7.88 Hz, 1H), 7.43 (t, J=7.88 Hz, 1H), 7.19 (d, J=7.88 Hz, 1H), 7.11 (s, 1H), 7.05 (d, J=7.88 Hz, 1H), 5.80 (s, 1H), 5.44 (s, 1H), 4.05 (bd, J=12.08 Hz, 2H), 3.63 (bd, J=12.08 Hz, 2H), 3.51–3.32 (m, 5H), 3.31 (s, H2O), 3.29–3.22 (m, 1H), 3.07–2.98 (m, 2H), 2.12 (s, 3H), 1.90 (s, 3H).

reactant | 4-[2-(4-benzo[d]isothiazol-3-yl-piperazin-1-yl)-ethyl]-2-methyl-phenylamine hydrochloride | 1.702 mmol, 0.6 g | Cl.S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCC2=CC(=C(C=C2)N)C
reactant | 2-methyl-acryloyl chloride | 1.702 mmol, 0.206 mL | CC(C(=O)Cl)=C | C4H5ClO
product | N-{4-[2-(4-Benzo[d]isothiazol-3-yl-piperazin-1-yl)-ethyl]-2-methyl-phenyl}-2-methyl-acrylamide | 1.239 mmole, 0.521 g, Yield=73% | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCC2=CC(=C(C=C2)NC(C(=C)C)=O)C | C24H28N4OS
